US08664207B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one
To a solution of (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-2-(4-methoxy-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one (95 mg, 0.25 mmol) in CH2Cl2 is slowly added TFA and trifluoromethanesulfonic acid (TFMSA). The mixture is stirred at room temperature overnight. Solvents and TFA are removed under reduced pressure. The residue is neutralized and dissolved in DMF, and then purified by a semi-preparative HPLC to give 77 mg of (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one. A suspension of (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one (79 mg, 0.3 mmol), 2-(4-(chloromethyl)phenyl)pyridine (61 mg, 0.3 mmol) and cesium carbonate (192 mg, 0.6 mmol) in anhydrous DMF is stirred at room temperature for 4 h. The mixture is filtered through a 0.2 μL microfilter. The filtrate is purified by a semi-preparative HPLC to give pure product. MS (ESI) m/z 432.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 0.3 mmol, 79 mg | ClC=1NC=C2C1C(N(C=1N2[C@@H]2[C@H](N1)CCC2)C)=O | C12H13ClN4O
reactant | 2-(4-(chloromethyl)phenyl)pyridine | 0.3 mmol, 61 mg | ClCC1=CC=C(C=C1)C1=NC=CC=C1 | C12H10ClN
reactant | cesium carbonate | 0.6 mmol, 192 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | ClC=1N(C=C2C1C(N(C=1N2[C@@H]2[C@H](N1)CCC2)C)=O)CC2=CC=C(C=C2)C2=NC=CC=C2 | C24H22ClN5O
